US06024937
N-Methyl 2-Amino acetanilide
To a solution of 5.0 g (0.026 moles) N-methyl 2-nitro acetanilide in 250 mL absolute alcohol is added 0.5 g of 10% palladium on activated carbon. The nitro functional group is reduced to amino functionality under catalytic reduction with hydrogen gas in a pressure bottle at 60 PSI using Parr hydrogenation apparatus. The reduction is carried out for five hours by which time the reaction is complete as indicated by no further consumption of H2 gas. The reaction mixture is filtered and the solvent from the filtrate is removed under reduced pressure. To the crude residue a small amount of mixture of ethyl acetate ethanol is added and cooled. The resulting precipitate is filtered and washed with cold ethyl acetate in ethanol solvent and dried to give the desired compound N-methyl 2-amino acetanilide.

reactant | N-methyl 2-nitro acetanilide | 0.026 moles, 5.0 g | CN(C1=CC=CC=C1)C(C[N+](=O)[O-])=O | C9H10N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 0.5 g | [Pd] | Pd
product | N-methyl 2-amino acetanilide | CN(C1=CC=CC=C1)C(CN)=O | C9H12N2O
